US04388472
4-chloro-3-nitrobenzotrifluoride (112.8 g) in methanol (200 ml) was mixed with a solution of sodium (11.6 g) in methanol (800 ml) and stirred for 2 hours. The mixture was kept overnight and then stirred and heated under reflux for 3 hours. The solution was left overnight, filtered, and the solvent removed. The remaining oil was taken up in ether (500 ml) and washed with water. The ether solution was dried and evaporated to give 4-methoxy-3-nitrobenzotrifluoride (106 g).

reactant | 4-chloro-3-nitrobenzotrifluoride | 112.8 g | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | sodium | 11.6 g | [Na] | Na
reactant | methanol | 200 ml | CO | CH4O
reactant | methanol | 800 ml | CO | CH4O
product | 4-methoxy-3-nitrobenzotrifluoride | 106 g | COC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C8H6F3NO3
